US07807671B2
To sodium hydride (0.1 g) taken in a dry 100 ml 3-necked round bottom flask cooled to 0° C., dry dimethylformamide (2 ml) was added. To the above mixture, compound tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate (0.5 g) in DMF (2 ml) was slowly added at 0° C. After 30 min, 2-chloro-N,N-dimethylethylamine (200 mg) in DMF (1 ml) was added to the above mixture. Reaction mixture was allowed to stir at room temperature for overnight, quenched with ice and extracted with ethyl acetate. The organic layer was washed with water (10 ml), brine and dried over sodiumsulphate. The organic layer was filtered and concentrated under reduced pressure. The resulting crude product was purified by column chromatography using 6% Ethyl acetate in hexane as eluant afford tert-butyl 4-(1-(2-(dimethylamino)ethyl)-3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate as half white solid.

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate | 0.5 g | C1(=CC=CC=C1)C1=NNC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
reactant | 2-chloro-N,N-dimethylethylamine | 200 mg | ClCCN(C)C | C4H10ClN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(1-(2-(dimethylamino)ethyl)-3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate | CN(CCN1N=C(C(=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C22H33N5O2
